US09353075B2
Step 1. Preparation of 3-phenylpropyl-chlorocarbonate
In a four necked round bottom flask, triphosgene (5.45 g, 55.1 mmol) was dissolved in toluene (80 mL) under argon. After cooling at 0° C., pyridine (4.8 mL, 58.8 mmol) was added dropwise during 1 h and the resulting suspension stirred for further 1 h at 0° C. 3-phenyl-1-propanol (5 mL, 36.8 mmol) was added dropwise in 30 min. After stirring at rt for 24 h, the solid was filtered off and the solvent removed under vacuum, yielding the title compound (6.2 g, 85%) as pale yellow oil, which was used in the next step without further purification. FTIR (cm−1): 3086, 3065, 3027, 2995, 2932, 2862, 1776, 1743, 1603, 1496, 1454, 1262, 1148, 745, 699.

reactant | triphosgene | 55.1 mmol, 5.45 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 58.8 mmol, 4.8 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-phenyl-1-propanol | 36.8 mmol, 5 mL | C1(=CC=CC=C1)CCCO | C9H12O
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 3-phenylpropyl-chlorocarbonate | 6.2 g, 85% | C1(=CC=CC=C1)CCCOC(=O)Cl | C10H11ClO2
